US05736539
1-Benzyl-3(S)-n-butylpiperazine-2,5-dione
The title compound was prepared according to the procedure described in Example 2, Step A, except using Boc-L-norleucine (10.5 g, 45.2 mmol), ethyl N-benzylglycinate (8.72 g, 45.2 mmol) and dicyclohexylcarbodiimide (9.33 g, 45.2 mmol). The crude diketopiperazine was triturated with hexane to give the title compound as a white powder (12.0 g). NMR (300 MHz, CDCl3) δ 7.24-7.40 (5H, m), 6.22 (1H, br s), 4.07 (1H, dt, J=3, 6 Hz), 3.87 (1H, d, J=17 Hz), 3.80 (1H, d, J=17 Hz), 1.88 (2H, m), 1.35 (4H, m), 0.91 (3H, t, J=7 Hz).

reactant | Boc-L-norleucine | 45.2 mmol, 10.5 g | C(=O)(OC(C)(C)C)N[C@@H](CCCC)C(=O)O | C11H21NO4
reactant | ethyl N-benzylglycinate | 45.2 mmol, 8.72 g | C(C1=CC=CC=C1)NCC(=O)OCC | C11H15NO2
reactant | dicyclohexylcarbodiimide | 45.2 mmol, 9.33 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
product | 1-Benzyl-3(S)-n-butylpiperazine-2,5-dione | 12.0 g | C(C1=CC=CC=C1)N1C([C@@H](NC(C1)=O)CCCC)=O | C15H20N2O2
